US07468443B2
In 10 mL of methylene chloride was dissolved 1.00 g of 1-(3-hydroxy-1-azetidinyl)-1-ethanone, and 1.19 mL of 3,4-dihydro-2H-pyran and 0.08 g of p-toluenesulfonic acid monohydrate were added to the solution, after which the resulting mixture was stirred overnight at room temperature. To the reaction mixture was added 10 mL of water and the pH was adjusted to 8 with a saturated aqueous sodium hydrogencarbonate solution, after which the organic layer was separated. The organic layer was dried over anhydrous magnesium sulfate and distilled under reduced pressure to remove the solvent. The residue was purified by a column chromatography (eluent; chloroform˜chloroform:methanol=25:1) to obtain 1.79 g of 1-[3-(tetrahydro-2H-pyran-2-yloxy)-1-azetidinyl]-1-ethanone as a yellow oil.

reactant | 1-(3-hydroxy-1-azetidinyl)-1-ethanone | 1.00 g | OC1CN(C1)C(C)=O | C5H9NO2
reactant | 3,4-dihydro-2H-pyran | 1.19 mL | O1CCCC=C1 | C5H8O
reactant | p-toluenesulfonic acid monohydrate | 0.08 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | water | 10 mL | O | H2O
product | 1-[3-(tetrahydro-2H-pyran-2-yloxy)-1-azetidinyl]-1-ethanone | 1.79 g | O1C(CCCC1)OC1CN(C1)C(C)=O | C10H17NO3
